US05338743
A mixture of 3-[2-(2-cyanoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.35 g), sodium azide (0.20 g) and triethylamine hydrochloride (0.21 g) in N-methylpyrrolidone (10 ml) was stirred at 150° C. for 4 hours under nitrogen atmosphere. The reaction mixture was poured into water (30 ml), acidified with 10% hydrochloric acid (5 ml), and extracted twice with ethyl acetate. The combined extracts were washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel using a mixture of chloroform and methanol (20:1) as an eluent. The fractions containing the object compound were combined and evaporated in vacuo. The residue was recrystallized from ethyl acetate to give 3-[2-{2-(1H-tetrazol-5-yl)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.06 g).

reactant | 3-[2-(2-cyanoethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.35 g | C(#N)CCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C20H15N5O
reactant | sodium azide | 0.20 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.21 g | Cl.C(C)N(CC)CC
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 30 ml | O | H2O
product | 3-[2-{2-(1H-tetrazol-5-yl)ethyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.06 g | N1N=NN=C1CCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C20H16N8O
